US09303007B2
DIPEA (2.79 mL, 16.0 mmol) was added to a stirring slurry of (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid (2.00 g, 8.80 mmol) and 2-bromo-1-(3-bromophenyl)ethanone (2.22 g, 8.00 mmol) in acetonitrile (25 mL) (the solution became clear and amber colored) and the reaction mixture was stirred overnight. The reaction was concentrated and purified via BIOTAGE® (80 g SiO2, 10-25% EtOAc/hexanes) to yield (1R,3S,5R)-3-(2-(3-bromophenyl)-2-oxoethyl) 2-tert-butyl 2-azabicyclo[3.1.0]hexane-2,3-dicarboxylate (3.37 g, 7.94 mmol) as a viscous light yellow oil. LC-MS retention time 1.853 min; m/z 423 and 425.98 (1:1) (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a waters XTERRA® MS 7u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 5% MeOH/95% H2O/10 mM ammonium acetate and Solvent B was 5% H2O/95% MeOH/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, CDCl3) δ ppm 8.04 (d, J=1.8 Hz, 1H), 7.83 (d, J=7.8 Hz, 1H), 7.75 (d, J=8.0 Hz, 1H), 7.38 (dd, J=8.0, 7.8 Hz, 1H), 5.58-5.10 (m, 2H), 4.23 (br s, 1H), 3.62-3.39 (m, 1H), 2.58 (dt, J=13.3, 6.5 Hz, 1H), 2.46 (dd, J=13.3, 9.5 Hz, 1H), 1.73-1.51 (m, 1H), 1.47 (s, 9H), 0.85 (br s, 1H), 0.51 (s, 1H).

reactant | DIPEA | 16.0 mmol, 2.79 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid | 8.80 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
reactant | 2-bromo-1-(3-bromophenyl)ethanone | 8.00 mmol, 2.22 g | BrCC(=O)C1=CC(=CC=C1)Br | C8H6Br2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (1R,3S,5R)-3-(2-(3-bromophenyl)-2-oxoethyl) 2-tert-butyl 2-azabicyclo[3.1.0]hexane-2,3-dicarboxylate | 7.94 mmol, 3.37 g | [C@@H]12N([C@@H](C[C@H]2C1)C(=O)OCC(=O)C1=CC(=CC=C1)Br)C(=O)OC(C)(C)C | C19H22BrNO5
